US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (483 mg, 3.4 mmol) was dissolved in absolute ethanol (70 mL), and triethylamine (1.4 mL, 10.2 mmol) and 5-(bromomethyl)pyrimidine (882 mg, 5.1 mmol) were added. The mixture was stirred overnight at room temperature. The solid was filtered. The filtrate was evaporated. The residue was triturated in water, filtered, and washed with water followed with diethyl ether. The solid was dissolved in DCM and purified on silica gel using 10% DCM/MeOH to afford 6-methyl-2-[(pyrimidin-5-ylmethyl)sulfanyl]pyrimidin-4-ol (12 mg, 2% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 4.34 (s, 2H), 6.02 (bs, 1H), 8.88 (s, 2H), 9.05 (s, 1H); LRMS (ES+) m/z 235 (100%, M+1).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.4 mmol, 483 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 10.2 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(bromomethyl)pyrimidine | 5.1 mmol, 882 mg | BrCC=1C=NC=NC1 | C5H5BrN2
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 6-methyl-2-[(pyrimidin-5-ylmethyl)sulfanyl]pyrimidin-4-ol | 12 mg, 2% yield | CC1=CC(=NC(=N1)SCC=1C=NC=NC1)O | C10H10N4OS
